US07598285B2
Ethyl 3-[2-fluoro-5-(trifluoromethyl)phenyl]-3-oxopropanoate (3 g, 9.7 mmol) and {(1S)-1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinium trifluoroacetate (2.64 g, 8.2 mmol) were heated in dry acetonitrile (150 ml) to 85° C. for 8 hr. Solvent was evaporated and the residue purified by flash column chromatograph (SiO2, 25% ethyl acetate in hexanes) to give ethyl 4-((1S)-1-{3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-oxo-4,5-dihydro-1H-pyrazol-1-yl}ethyl)benzoate as a white solid. NMR (500 MHz, CDCl3) δ: 1.38 (t, J=7.1, 3H); 1.82 (d, 7.2 Hz, 3H); 3.81 (dd, J=3 Hz, 23.9 Hz, 1H); 3.87 (dd, J=3 Hz, 23.9 Hz, 1H); 4.36 (q, J=7.1 Hz, 2H); 5.60 (q, J=7.2 Hz, 1H); 7.25 (t,J=9.5 Hz, 1H); 7.51 (d, J=8.4 Hz, 2H): 7.66 (br, 1H); 8.03 (d, J=8.4 Hz, 2H); 8.25 (dd, J=1.8 Hz, 6.4 Hz, 1H). MS C21H18F4N2O3

reactant | Ethyl 3-[2-fluoro-5-(trifluoromethyl)phenyl]-3-oxopropanoate | 9.7 mmol, 3 g | FC1=C(C=C(C=C1)C(F)(F)F)C(CC(=O)OCC)=O | C12H10F4O3
reactant | {(1S)-1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinium trifluoroacetate | 8.2 mmol, 2.64 g | FC(C(=O)[O-])(F)F.C(C)OC(=O)C1=CC=C(C=C1)[C@H](C)[NH2+]N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | ethyl 4-((1S)-1-{3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-oxo-4,5-dihydro-1H-pyrazol-1-yl}ethyl)benzoate | FC1=C(C=C(C=C1)C(F)(F)F)C1=NN(C(C1)=O)[C@@H](C)C1=CC=C(C(=O)OCC)C=C1 | C21H18F4N2O3
